US07405210B2
Preparation 108: N-(6-Chloro-3-iodopyridin-2-yl)-2,2-dimethyl propionamide
To a dry solution of N-(6-chloropyridin-2-yl)-2,2-dimethyl propionamide (Preparation 107, 8.0 g, 37.6 mmol) in THF (120 mL), cooled to −78° C., was added dropwise, a solution of tert-butyllithium in pentane (1.7M, 48.7 mL, 82.8 mmol) over 40 min. The reaction was stirred at —78° C. for 3 h before adding a solution of iodine (11.46 g, 45.1 mmol) in THF (40 mL) dropwise. The mixture was brought up to rt and stirred for 16 h. 2M HCl (3 mL) was added to the reaction, and after 20 min the solvent was removed in vacuo. Crude material was partitioned between ethyl acetate (200 mL) and water (150 mL). Organics were separated and washed with 10% sodium thiosulfate solution (4×100 mL) then NaHCO3 solution (2×100 mL), dried (MgSO4) and the solvent removed in vacuo. The residue was purified by column chromatography (SiO2, CH2Cl2) to give the title compound. m/z (ES+)=338.93 [M+H]+.

reactant | N-(6-chloropyridin-2-yl)-2,2-dimethyl propionamide | 37.6 mmol, 8.0 g | ClC1=CC=CC(=N1)NC(C(C)(C)C)=O | C10H13ClN2O
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 82.8 mmol, 1.7M, 48.7 mL | CCCCC | C5H12
reactant | iodine | 45.1 mmol, 11.46 g | II | I2
reactant | HCl | 2M, 3 mL | Cl | ClH
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | N-(6-Chloro-3-iodopyridin-2-yl)-2,2-dimethyl propionamide | ClC1=CC=C(C(=N1)NC(C(C)(C)C)=O)I | C10H12ClIN2O
